US07645771B2
2,2-dimethyl-3-oxo-3-({[3-(trifluoromethyl)phenyl]sulfonyl}amino)propanoic acid was prepared in the same manner as 2,2-dimethyl-3-oxo-3-[(phenylsulfonyl)amino]propanoic acid starting from 3-(trifluoromethyl)benzenesulfonyl chloride.

reactant | 2,2-dimethyl-3-oxo-3-[(phenylsulfonyl)amino]propanoic acid | CC(C(=O)O)(C(NS(=O)(=O)C1=CC=CC=C1)=O)C | C11H13NO5S
reactant | 3-(trifluoromethyl)benzenesulfonyl chloride | FC(C=1C=C(C=CC1)S(=O)(=O)Cl)(F)F | C7H4ClF3O2S
product | 2,2-dimethyl-3-oxo-3-({[3-(trifluoromethyl)phenyl]sulfonyl}amino)propanoic acid | CC(C(=O)O)(C(NS(=O)(=O)C1=CC(=CC=C1)C(F)(F)F)=O)C | C12H12F3NO5S
